US05221752
N-Benzyloxycarbonyl-DL-proline (4.98 g) was dissolved in dry dichloromethane (100 ml) and 3,5-dimethylpyrazole (2.12 g) and dicyclohexylcarbodiimide (4.5 g) were added to the solution at -20° C. After 30 min the temperature was elevated to room temperature and the solution was stirred for 20 h. After the completion of the reaction, 0.3 ml of acetic acid was added to the reaction mixture and an insoluble matter was removed by filtration. After the solvent was distilled off, the residue was dissolved in a small amount of ethyl acetate. An insoluble matter was removed by filtration and the filtrate was evaporated to dryness under reduced pressure to give 6.0 g of N-benzyloxycarbonyl-DL-proline-3,5-dimethylpyrazolide (yield: 91.7%).

reactant | N-Benzyloxycarbonyl-DL-proline | 4.98 g | C(C1=CC=CC=C1)OC(=O)N1C(C(=O)O)CCC1 | C13H15NO4
reactant | 3,5-dimethylpyrazole | 2.12 g | CC1=NNC(=C1)C | C5H8N2
reactant | dicyclohexylcarbodiimide | 4.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-benzyloxycarbonyl-DL-proline 3,5-dimethylpyrazolide | 6.0 g, yield: 91.7% | C(C1=CC=CC=C1)OC(=O)N1C(C(=O)O)CCC1.CC1=N[N-]C(=C1)C | InChI=1S/C13H15NO4.C5H7N2/c15-12(16)11-7-4-8-14(11)13(17)18-9-10-5-2-1-3-6-10;1-4-3-5(2)7-6-4/h1-3,5-6,11H,4,7-9H2,(H,15,16);3H,1-2H3/q;-1
